* circuit

*----------------------------------------------
*	GNUCAP - NETLIST
.options OUT=120 
*------------- Models -------------------------
.include /usr/share/oregano/models/PNP.model
.model 2N3906 PNP(IS=1E-14 VAF=100 BF=200 IKF=0.4 XTB=1.5 BR=4 CJC=10E-12 CJE=1E-12 RB=20 RC=0.1 RE=0.1 TR=250E-9 TF=350E-12 ITF=1 VTF=2 XTF=3)



*------------- Circuit Description-------------
*V1 0 2 dc 0.0 ac 1.0 sin(0.0 1.0 1.0 0 0) 
V2 5 0 dc 10V

* c b e
Q1 3 2 1 2N3906
Q2 4 2 1 2N3906

I1 3 0 dc 1.22mA

RL 4 0 5k

*CE 5 7 1u


.end